US06262095B1
To a solution of 5 g (24 mmol) of 2-amino-3-chloro-1,4-dihydro-1,4-dioxonaphthalene in 60 mL of dioxane, 15.3 mL (120 mmol) of 2-chlorobenzoic acid chloride are added; after 5 min of stirring, 0.5 mL of concentrated sulfuric is added. The reaction mixture is heated to reflux for 4 h, and the precipitate obtained after evaporation of the dioxane at a reduced pressure is dissolved in 200 mL of dichloromethane. To this solution, 100 mL of a cold 10N sodium hydroxide solution are added. The mixture is stirred for 2 h. The organic phase is then extracted, washed several times with water and dried over calcium chloride. The solid residue obtained after evaporation of the solvent is purified on a medium-pressure column (support: silica; eluant: dichloromethane/heptane, 40/60). The product obtained is recrystallized after color removal in a heptane/dichloromethane mixture (1/1) to produce 5 g of 2-(2-chlorophenyl)-4,9-dihydro-4,9-dioxo-naphtho[2,3-d]oxazole in the form of light yellow crystals.

reactant | 2-amino-3-chloro-1,4-dihydro-1,4-dioxonaphthalene | 24 mmol, 5 g | NC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H6ClNO2
reactant | 2-chlorobenzoic acid chloride | 120 mmol, 15.3 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 2-(2-chlorophenyl)-4,9-dihydro-4,9-dioxo-naphtho[2,3-d]oxazole | 5 g, Yield: 67% | ClC1=C(C=CC=C1)C=1OC2=C(N1)C(C=1C=CC=CC1C2=O)=O | C17H8ClNO3
